US04367234
2-Methyl-1-naphthaldehyde
By the method of Preparation 1, except that a reaction time of 1 hour at 0° C. was employed, 2-methylnaphthalene (10 g., 0.070 mole) in 200 ml. of methylene chloride was reacted with titanium tetrachloride (52.6 g., 30.5 ml., 0.28 mole) and 1,1-dichloromethyl methyl ether (24.1 g., 0.21 mole). The crude product, obtained as an oil, was distilled, yielding 12.2 g. of distillate b.p. 155°-160° C./2.3-3.0 mm. On standing, crystalline product separated from the distillate. Filtration gave purified 2-methyl-1-naphthaldehyde (0.53 g., m.p. 48°-50° C.).

reactant | 2-methylnaphthalene | 0.070 mole, 10 g | CC1=CC2=CC=CC=C2C=C1 | C11H10
reactant | 1,1-dichloromethyl methyl ether | 0.21 mole, 24.1 g | COC(Cl)Cl | C2H4Cl2O
catalyst | titanium tetrachloride | 0.28 mole, 30.5 ml, 52.6 g | [Ti](Cl)(Cl)(Cl)Cl
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Methyl-1-naphthaldehyde | CC1=C(C2=CC=CC=C2C=C1)C=O | C12H10O
